US06184242B2
To a stirred solution of 1-bromo-4-isopropoxymethyl-benzene (300 mg, 13.1 mmol) (prepared as described in Preparation 1) in dry tetrahydrofuran (1.4 mL) at −78° C. under argon atmosphere was added dropwise 1.7M tert-butyllithium in pentane (1.62 mL, 2.75 mmol). After the mixture was stirred for about 20 minutes, tri-n-butyltin chloride (0.35 mL, 1.31 mmol) was added. The mixture was allowed to reach 0° to 5° C. and stirred for about 1 hour. A mixture of (4-chloromethylphenyl) carbamic acid 2-trimethylsilanyl-ethyl ester (374 mg, 13.1 mmol) (prepared as described in Preparation 2), hexamethylphosphoramide (4.4 mL), tetrakis(triphenylphosphine)palladium(0) (29.3 mg, 0.025 mmol) was added at 0° to 5° C., and then heated to about 65° C. for 20 hours. The solution was partitioned between water (15 mL) and diethyl ether (15 mL). The aqueous phase was extracted with diethyl ether, and the combined organic layers were washed with water and brine, dried (Na2SO4), and evaporated in vacuo. The residue was dissolved in acetonitrile, washed with hexane (2×20 mL), dried (Na2SO4), concentrated in vacuo, and purified by flash chromatography to give pure 4-(4-isopropoxymethylbenzyl)phenyl carbamic acid 2-trimethylsilanyl-ethyl ester (204 mg, 26%) as clear oil.

reactant | 1-bromo-4-isopropoxymethyl-benzene | 13.1 mmol, 300 mg | BrC1=CC=C(C=C1)COC(C)C | C10H13BrO
reactant | tert-butyllithium | 1.7M | C(C)(C)(C)[Li]
reactant | pentane | 2.75 mmol, 1.62 mL | CCCCC | C5H12
reactant | tri-n-butyltin chloride | 1.31 mmol, 0.35 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
reactant | (4-chloromethylphenyl) carbamic acid 2-trimethylsilanyl-ethyl ester | 13.1 mmol, 374 mg | C[Si](CCOC(NC1=CC=C(C=C1)CCl)=O)(C)C | C13H20ClNO2Si
solvent | tetrahydrofuran | 1.4 mL | O1CCCC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.025 mmol, 29.3 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | hexamethylphosphoramide | 4.4 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 4-(4-isopropoxymethylbenzyl)phenyl carbamic acid 2-trimethylsilanyl-ethyl ester | 204 mg, 26% | C[Si](CCOC(NC1=CC=C(C=C1)CC1=CC=C(C=C1)COC(C)C)=O)(C)C | C23H33NO3Si
